US04643908
Ampicillin;
Cephalexin; Chloramphenicol; Lincomycin; Lincomycin hydrochloride monohydrate; Oxytetracycline; Penicillin G, sodium or potassium; Procaine penicillin G; Tetracycline; Tylosin.

reactant | Cephalexin | CC1=C(N2[C@@H]([C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)SC1)C(=O)O | C16H17N3O4S
reactant | Chloramphenicol | C1=CC(=CC=C1[C@H]([C@@H](CO)NC(=O)C(Cl)Cl)O)[N+](=O)[O-] | C11H12Cl2N2O5
reactant | Lincomycin | CCC[C@@H]1C[C@H](N(C1)C)C(=O)N[C@@H]([C@@H]2[C@@H]([C@@H]([C@H]([C@H](O2)SC)O)O)O)[C@@H](C)O | C18H34N2O6S
reactant | Lincomycin hydrochloride monohydrate | CCC[C@@H]1C[C@H](N(C1)C)C(=O)N[C@@H]([C@@H]2[C@@H]([C@@H]([C@H]([C@H](O2)SC)O)O)O)[C@@H](C)O.O.Cl
reactant | Oxytetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H]([C@H]([C@@H]31)O)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O9
reactant | Penicillin G | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC=3C=CC=CC3)C(=O)O)C | C16H18N2O4S
reactant | sodium | [Na] | Na
reactant | potassium | [K] | K
reactant | Procaine penicillin G | CCN(CC)CCOC(=O)C1=CC=C(C=C1)N.CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)CC3=CC=CC=C3)C(=O)O)C
reactant | Tetracycline | C[C@]1(C=2C=CC=C(C2C(=O)C3=C([C@]4([C@@H](C[C@@H]31)[C@@H](C(=C(C4=O)C(=O)N)O)N(C)C)O)O)O)O | C22H24N2O8
reactant | Tylosin | CC[C@@H]1[C@H](/C=C(/C=C/C(=O)[C@@H](C[C@@H]([C@@H]([C@H]([C@@H](CC(=O)O1)O)C)O[C@H]2[C@@H]([C@H]([C@@H]([C@H](O2)C)O[C@H]3C[C@@]([C@H]([C@@H](O3)C)O)(C)O)N(C)C)O)CC=O)C)\C)CO[C@H]4[C@@H]([C@@H]([C@@H]([C@H](O4)C)O)OC)OC | C46H77NO17
product | Ampicillin | CC1([C@@H](N2[C@H](S1)[C@@H](C2=O)NC(=O)[C@@H](C=3C=CC=CC3)N)C(=O)O)C | C16H19N3O4S
